US03998834
A mixture of 13.1 parts of N-phenyl-1-(phenylmethyl)-4-(propoxymethyl)-4-piperidinamine and 20 parts of propionic acid anhydride is stirred and refluxed for 6 hours. After cooling, the reaction mixture is poured onto ice-water and the whole is alkalized with ammonium hydroxide. The product is extracted with trichloromethane. The extract is washed with water, dried, filtered and evaporated. The oily residue is converted into the ethanedioate salt in 2-propanone and 2-propanol. The salt is filtered off and crystallized from acetonitrile, yielding N-phenyl-N-[1-(phenylmethyl)-4-(propoxymethyl)-4-piperidinyl]propanamide ethanedioate; mp. 180.3° C.

reactant | N-phenyl-1-(phenylmethyl)-4-(propoxymethyl)-4-piperidinamine | C1(=CC=CC=C1)NC1(CCN(CC1)CC1=CC=CC=C1)COCCC | C22H30N2O
reactant | propionic acid anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | ammonium hydroxide | [OH-].[NH4+]
product | N-phenyl-N-[1-(phenylmethyl)-4-(propoxymethyl)-4-piperidinyl]propanamide ethanedioate | C(C(=O)O)(=O)O.C1(=CC=CC=C1)N(C(CC)=O)C1(CCN(CC1)CC1=CC=CC=C1)COCCC | InChI=1S/C25H34N2O2.C2H2O4/c1-3-19-29-21-25(27(24(28)4-2)23-13-9-6-10-14-23)15-17-26(18-16-25)20-22-11-7-5-8-12-22;3-1(4)2(5)6/h5-14H,3-4,15-21H2,1-2H3;(H,3,4)(H,5,6)
